US07582769B2
3-{2-[3-(trans-4-tert-Butyl-cyclohexyl)-3-cycloheptyl-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared in a similar manner to {2-[3-cyclopentyl-3-(trans-4-ethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid via (4-tert-butyl-cyclohexyl)-cycloheptyl-amine and 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester to give the title compound.

reactant | {2-[3-cyclopentyl-3-(trans-4-ethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)CC | C19H29N3O3S2
reactant | (4-tert-butyl-cyclohexyl)-cycloheptyl-amine | C(C)(C)(C)C1CCC(CC1)NC1CCCCCC1 | C17H33N
reactant | 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-(trans-4-tert-Butyl-cyclohexyl)-3-cycloheptyl-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1CCCCCC1 | C24H39N3O3S2
